US08283353B2
trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propylpyrazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl 2-(acetyloxy)-2-methylpropanoate
To a solution of 4′-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (0.47 g) in pyridine (3 mL) was added 2-chloro-1,1-dimethyl-2-oxoethyl acetate (0.44 mL) and the mixture was stirred for 2 hr. Ethyl acetate and water were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography to give the title compound as a pale-yellow amorphous solid (0.47 g, 79%).

reactant | 4′-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.47 g | O[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CC2 | C29H30N4O2
reactant | 2-chloro-1,1-dimethyl-2-oxoethyl acetate | 0.44 mL | C(C)(=O)OC(C(=O)Cl)(C)C | C6H9ClO3
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propylpyrazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl 2-(acetyloxy)-2-methylpropanoate | 0.47 g, 79% | C(C)(=O)OC(C(=O)O[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)CCC)N=CC2)(C)C | C35H38N4O5
